US06596445B1
34.1 N,N-Dimethyl-N′-(4-methylsulfanyl-benzylidene)-hydrazine
7.44 g (48.9 mmol) of 4-methylthiobenzaldehyde and 4.0 ml (52.7 mmol) of 1,1-dimethylhydrazine are dissolved in toluene (50 ml) and heated to reflux for 2.5 hr. Brine is added to the reaction mixture after cooling, and the product is extracted with toluene. The toluene layer is condensed and the residue is applied to column chromatography on silica gel with acetone-hexane (1:20) as eluent. 9.07 g of a pale yellow oil are obtained (96%). 1H NMR (CDCl3), δ[ppm]: d 2.48 (s, 3H), 2.96 (s, 6H), 7.20 (s, 1H), 7.21 (d, 2H), 7.49 (d, 2H).

reactant | 4-methylthiobenzaldehyde | 48.9 mmol, 7.44 g | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | 1,1-dimethylhydrazine | 52.7 mmol, 4.0 ml | CN(N)C | C2H8N2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Brine | [Cl-].[Na+].O
solvent | acetone hexane | CC(=O)C.CCCCCC
product | N,N-Dimethyl-N′-(4-methylsulfanyl-benzylidene)-hydrazine | 9.07 g | CN(N=CC1=CC=C(C=C1)SC)C | C10H14N2S
